US04474692
Nα -[1-(R)-Ethoxycarbonyl-3-phenylpropyl]-Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester (1 g) is dissolved in 2 ml of acetic acid. To the solution, 8 ml of 25% hydrobromic acid solution in acetic acid is added, and the mixture is allowed to stand at room temperature for 30 minutes. On adding 200 ml of ether and 100 ml of petroleum ether to the reaction mixture, a crystalline precipitate forms. This is collected by filtration and recrystallized from a mixture of methanol and ethyl ether to give 0.8 g of Nα -[1-(R)-ethoxycarbonyl-3-phenylpropyl]-L-lysyl-N-(indan-2-yl)glycine dihydrobromide melting at 128°-133° C. with decomposition.

reactant | Nα -[1-(R)-Ethoxycarbonyl-3-phenylpropyl]-Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester | 1 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@H](CCC1=CC=CC=C1)C(=O)OCC)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C41H53N3O7
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Nα -[1-(R)-ethoxycarbonyl-3-phenylpropyl]-L-lysyl-N-(indan-2-yl)glycine dihydrobromide | 0.8 g | Br.Br.C(C)OC(=O)[C@@H](CCC1=CC=CC=C1)N[C@@H](CCCCN)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C29H39N3O5.2BrH/c1-2-37-29(36)26(16-15-21-10-4-3-5-11-21)31-25(14-8-9-17-30)28(35)32(20-27(33)34)24-18-22-12-6-7-13-23(22)19-24;;/h3-7,10-13,24-26,31H,2,8-9,14-20,30H2,1H3,(H,33,34);2*1H/t25-,26+;;/m0../s1
